US09388199B2
(S)-2-Amino-4,4-dimethyl-pentan-1-ol hydrochloride
To a solution of ((S)-1-hydroxymethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester (200 mg, 0.605 mmol) in dioxane (4 mL) was added HCl (4N in dioxane, 6.05 mL, 24.21 mmol). The reaction mixture was stirred at RT overnight and concentrated to give the desired material as a white powder which was used without further purification in the next. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 7.79 (bs, 3H), 5.37 (m, 1H), 3.60 (m, 1H), 3.40 (overlap with water, m, 1H), 3.09 (m, 1H), 1.47 (dd, 1H), 1.33 (dd, 1H), 0.92 (s, 9H).

reactant | ((S)-1-hydroxymethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester | 0.605 mmol, 200 mg | C(C)(C)(C)OC(N[C@@H](CC(C)(C)C)CO)=O | C12H25NO3
reactant | HCl | 24.21 mmol, 4N, 6.05 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (S)-2-Amino-4,4-dimethyl-pentan-1-ol hydrochloride | Cl.N[C@H](CO)CC(C)(C)C | InChI=1S/C7H17NO.ClH/c1-7(2,3)4-6(8)5-9;/h6,9H,4-5,8H2,1-3H3;1H/t6-;/m0./s1
